US07132573B2
(1S)-1-(2-methyl-2-propenoxymethyl)-3-methyl-butylamine
To a solution of L-leucinol (20.0 g, 0.17 mol) in an anhydrous THF (200 mL) was portionwise added 60% NaH (7.92 g, 0.198 mol). The resulting mixture was stirred for 30 min. at room temperature and further for 2 hours at 50° C. The mixture was then cooled to room temperature. To the resulting suspension was dropwise added a solution of 3-chloro-2-methylpropene (15.45 g, 0.17 mol) in an anhydrous THF (50 mL). The resulting mixture was stirred for 20 hours at room temperature. The THF was distilled off under reduced pressure. To the residue were successively added a mixture of ice and water and diethyl ether. The mixture was stirred for 5 min. at room temperature, and the organic portion was separated. The aqueous portion was subjected to extraction with diethyl ether. The extract was combined with the organic portion. The combined organic portion was washed with 1 mol/L aqueous hydrochloric acid (7 mL) and subjected to extraction with 1 mol/L aqueous hydrochloric acid (153 mL). The resulting hydrochloric acid extract was made to approx. pH 10 by addition of potassium carbonate and subjected to extraction with diethyl ether. The organic portion was washed with water, dried over sodium sulfate, and placed under reduced pressure to distill the solvent off. There was obtained the titled compound (20.22 g, 69.2%) as an oily product.

reactant | L-leucinol | 0.17 mol, 20.0 g | N[C@@H](CC(C)C)CO | C6H15NO
reactant | NaH | 0.198 mol, 7.92 g | [H-].[Na+]
reactant | 3-chloro-2-methylpropene | 0.17 mol, 15.45 g | ClCC(=C)C | C4H7Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (1S)-1-(2-methyl-2-propenoxymethyl)-3-methyl-butylamine | 20.22 g, 69.2% | CC(COC[C@H](CC(C)C)N)=C | C10H21NO
